US05712285
Step 3: 1-tert-Butoxycarbonyl-4-ethynyl-1,2,3,6-tetrahydropyridine
Potassium carbonate (1.0 g, 7.2 mmol) was added to a solution of 1-tert-butoxycarbonyl-4-trimethylsilylethynyl- 1,2,3,6-tetrahydropyridine (44.9 g, 16 lmmol) in methanol (250 ml) under a nitrogen atmosphere and the mixture was stirred at room temperature for 3 hours. The solution was evaporated in vacuo without heating. The residue was dissolved in ether (250 ml), washed with sodium carbonate (sat., 100 ml), water (50 ml) and brine (50 ml) before drying (MgSO4) and evaporation in vacuo to give the title compound as a white waxy solid (30.0 g, 90%); δH (CDCl3) 1.46 (9H, s, OC(CH3)3), 2.24-2.26 (2H, m, tetrahydropyridinyl CH2), 2.89 (1H, s, ethynyl CH), 3.49 (2H, t, J 5.7 Hz, tetrahydropyridinyl CH2), 3.95-3.97 (2H, m, tetrahydropyridinyl CH2) and 6.10 (1H, s, tetrahydropyridinyl CH).

reactant | Potassium carbonate | 7.2 mmol, 1.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-tert-butoxycarbonyl-4-trimethylsilylethynyl- 1,2,3,6-tetrahydropyridine | 44.9 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C#C[Si](C)(C)C | C15H25NO2Si
solvent | methanol | 250 ml | CO | CH4O
product | 1-tert-Butoxycarbonyl-4-ethynyl-1,2,3,6-tetrahydropyridine | C(C)(C)(C)OC(=O)N1CCC(=CC1)C#C | C12H17NO2
